US07071201B2
Example 100-1: Synthesis of 1-(4-fluorophenethyl)-4-(3-bromophenyl)aminopiperidine
Under ice cooling, a 1 M solution (20 ml) of a borane/tetrahydrofuran complex in tetrahydrofuran was added dropwise into a solution of 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-bromoindole (3.9 g) in trifluoroacetic acid (50 ml) followed by stirring for 3 hr. After adding water thereto and concentrating under reduced pressure, the reaction mixture was basified by adding ethanol and a 5 N aqueous solution of sodium hydroxide and then stirred for 30 min. Next, a saturated aqueous solution of sodium bicarbonate and ethyl acetate were added thereto and the layers were separated. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The residue was then purified by silica gel column chromatography (toluene/acetone system) to give the title compound (2.0 g) as a white powder (yield: 51%).

reactant | 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-bromoindole | 3.9 g | FC1=CC=C(CCN2CCC(CC2)N2C=CC3=CC=C(C=C23)Br)C=C1 | C21H22BrFN2
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(4-fluorophenethyl)-4-(3-bromophenyl)aminopiperidine | 2.0 g, yield: 51% | FC1=CC=C(CCN2CCC(CC2)NC2=CC(=CC=C2)Br)C=C1 | C19H22BrFN2
